US09359375B2
A mixture of (R)-benzyl 1-amino-1-oxo-3-phenylpropan-2-ylcarbamate (910 mg, 3.05 mmol) and Pd—C (10%, 200 mg) in MeOH (20 mL) was hydrogenated under balloon H2 for 16 h. It was filtered through celite. The filtrate was concentrated in vacuo to give D-phenylalanine amide as a white solid (493 mg).

reactant | (R)-benzyl 1-amino-1-oxo-3-phenylpropan-2-ylcarbamate | 3.05 mmol, 910 mg | NC([C@@H](CC1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C17H18N2O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | D-phenylalanine amide | 493 mg | N[C@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
